US07741326B2
1-Benzyl-6-fluoro-4-piperidin-4-yl-1H-indole-2-carboxylic acid amide was prepared as trifluoroacetate salt by hydrogenation of 4-(1-Benzyl-2-carbamoyl-6-fluoro-1H-indol-4-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester, followed by deprotection with trifluoroacetic acid, using the procedure of steps 3 and 4 of Example 2. MS: (M+H)+ 352.

reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | 4-(1-Benzyl-2-carbamoyl-6-fluoro-1H-indol-4-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=C2C=C(N(C2=CC(=C1)F)CC1=CC=CC=C1)C(N)=O | C26H28FN3O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 1-Benzyl-6-fluoro-4-piperidin-4-yl-1H-indole-2-carboxylic acid amide | C(C1=CC=CC=C1)N1C(=CC2=C(C=C(C=C12)F)C1CCNCC1)C(=O)N | C21H22FN3O
